US05616586
9-Bromo-5-(o-sulfamoylphenylcarbamoylmethyl)-6,7-dihydro- 1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 51 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (340 mg, 1 mmol) and o-sulfamoylaniline (180 mg, 1.05 mmol) to give 85 mg of the title compound (17%) after silica gel column chromatography of the crude product with 1% acetic acid/ethyl acetate as an eluent: mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.06 (bs, 1H), 9.36 (s, 1H), 8.01 (d, 1H, J=8.1 Hz), 7.85 (d, 2H, J=8.1 Hz), 7.60 (t, 1H, J=8.1 Hz), 7.58 (s, 2H), 7.32 (t, 1H, J=8.1 Hz), 7.23 (d, 1H, J=2 Hz), 7.16 (d, 1H, J=2 Hz), 5.17~5.27 (m, 1H), 3.07 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.82 (dm, 1H, J=17.1 Hz), 2.71~2.76 (m, 2H), 2.12 (dm, 1H, J=13.5 Hz), 1.78~1.96 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 1 mmol, 340 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | o-sulfamoylaniline | 1.05 mmol, 180 mg | S(N)(=O)(=O)C1=C(N)C=CC=C1 | C6H8N2O2S
solvent | acetic acid ethyl acetate | C(C)(=O)O.C(C)(=O)OCC
product | 9-Bromo-5-(o-sulfamoylphenylcarbamoylmethyl)-6,7-dihydro- 1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 85 mg, 17% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=C(C=CC=C2)S(N)(=O)=O)=O | C19H17BrN4O5S
